US06534535B1
Part 1. To a chilled solution of methyl 1-[(tert-butyl)oxycarbonyl]-2-oxo-(3H)—benzimidazole-5-carboxylate (0.37 g, 1.28 mmol) in CH2Cl2 (8 mL) and N,N-diisopropylethylamine (0.23 mL, 1.3 mmol) was added a solution of benzyl chloroformate (0.208 mL, 1.46 mmol) in CH2Cl2 (2 mL). The reaction was stirred at room temperature for 2.5 hr, diluted with ethyl acetate, washed with water and brine, dried over sodium sulfate and concentrated in vacuo. This residue was dissolved in CH2Cl2 (9 mL) and treated with neat trifluoroacetic acid (2 mL) at 0° C. for 40 min, diluted with ethyl acetate, washed with 5% NaHCO3, water and brine, dried over sodium sulfate and concentrated to yield methyl 2-oxo-3-[benzyloxycarbonyl]-(3H)—benzimidazole-5-carboxylate (0.37 g, 89%) as an off-white solid. 1H NMR (CDCl3) δ: 3.51 (s, 3H); 5.14 (s, 2H); 6.67-6.69 (d, 1H); 6.97-7.06 (m, 5H); 7.17-7.18 (d, 1H); 7.51-7.53 (d, 1H); 8.07 (s, 1H). ES-MS (M+Na)+=349.0.

reactant | methyl 1-[(tert-butyl)oxycarbonyl]-2-oxo-(3H)—benzimidazole-5-carboxylate | 1.28 mmol, 0.37 g | C(C)(C)(C)OC(=O)N1C(NC2=C1C=CC(=C2)C(=O)OC)=O | C14H16N2O5
reactant | N,N-diisopropylethylamine | 1.3 mmol, 0.23 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzyl chloroformate | 1.46 mmol, 0.208 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-oxo-3-[benzyloxycarbonyl]-(3H)—benzimidazole-5-carboxylate | 0.37 g, 89% | O=C1N(C2=C(N1)C=CC(=C2)C(=O)OC)C(=O)OCC2=CC=CC=C2 | C17H14N2O5
